US04894386
Palladium on carbon (10% w/w, 0.3 g) was added to a solution of methyl E-4-[5-(2-carboxy-1-propenyl)-1-methylindol-3-ylmethyl]-3-methoxybenzoate (4.14 g) in redistilled tetrahydrofuran (75 ml) in a hydrogenation bottle. The mixture was hydrogenated at 2.7 bar for 4 hr. The catalyst was removed by filtration through diatomaceous earth, the filter pad was washed with tetrahydrofuran, and the filtrate evaporated. The residue was crystallized from methanol to give methyl 4-[5-(2-carboxypropyl)-1-methylindol-3-ylmethyl]-3-methoxybenzoate (3.82 g, 92%) as white crystals; mp 149°-151°; partial NMR (250 MHz, DMSO-d6) 1.0(d, CHCH3), 2.60(m, 2H, CHCH2Ar), 3.34(m, 1H, CHCH2), 3.67(s, 3H), 3.83(s, 3H), 3.91(s, 3H), 3.99(s, 2H, ArCH2Ar'), 12.05(s, 1H, COOH).

reactant | methyl E-4-[5-(2-carboxy-1-propenyl)-1-methylindol-3-ylmethyl]-3-methoxybenzoate | 4.14 g | C(=O)(O)/C(=C/C=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)OC)C=C1)OC)/C | C23H23NO5
catalyst | Palladium on carbon | 0.3 g | [Pd] | Pd
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | methyl 4-[5-(2-carboxypropyl)-1-methylindol-3-ylmethyl]-3-methoxybenzoate | 3.82 g, 92% | C(=O)(O)C(CC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)OC)C=C1)OC)C | C23H25NO5
